US03996207
2-(Methoxydiphenylmethyl)-4,5,6,7-tetrahydro-1H-1,3-diazepine
2-(Chlorodiphenylmethyl)-4,5,6,7-tetrahydro-1H-1,3-diazepine hydrochloride (0.003 mole) is stirred at room temperature for two days in dry methanol (25 ml) containing sodium methoxide (0.006 mole). After removal of the solvent the residue is dissolved in chloroform washed with water and dried over magnesium sulphate. Removal of the solvent gives the title compound.

reactant | 2-(Chlorodiphenylmethyl)-4,5,6,7-tetrahydro-1H-1,3-diazepine hydrochloride | 0.003 mole | Cl.ClC(C=1NCCCCN1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium methoxide | 0.006 mole | C[O-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 2-(Methoxydiphenylmethyl)-4,5,6,7-tetrahydro-1H-1,3-diazepine | COC(C=1NCCCCN1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H22N2O
